US07981874B2
tert-Butyl(3-{[4-({[2-(dimethylphosphoryl)ethyl]amino}methyl)benzoyl]amino}biphenyl-4-yl)carbamate.
2-(Dimethylphosphoryl)ethanamine hydrochloride (393 mg, 2.493 mmol), tert-butyl (3-{[4-(bromomethyl)benzoyl]amino}biphenyl-4-yl)carbamate (400 mg, 0.831 mmol), and DIEA (581 μl, 3.32 mmol) were combined in DMF (8 mL) and water (0.50 mL) and stirred at 60° C. overnight. The solution was diluted with saturated NaHCO3 and extracted with EtOAc (4×). The combined organics were dried (MgSO4), evaporated, and purified by reverse phase HPLC (25-95% MeCN/water w/0.025% TFA). Product fractions were neutralized with saturated NaHCO3, extracted with EtOAc (2×), dried (MgSO4), and evaporated to give a colorless solid.

reactant | 2-(Dimethylphosphoryl)ethanamine hydrochloride | 2.493 mmol, 393 mg | Cl.CP(=O)(C)CCN
reactant | tert-butyl (3-{[4-(bromomethyl)benzoyl]amino}biphenyl-4-yl)carbamate | 0.831 mmol, 400 mg | BrCC1=CC=C(C(=O)NC=2C=C(C=CC2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C25H25BrN2O3
reactant | DIEA | 3.32 mmol, 581 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 0.50 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-Butyl(3-{[4-({[2-(dimethylphosphoryl)ethyl]amino}methyl)benzoyl]amino}biphenyl-4-yl)carbamate | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)CNCCP(=O)(C)C)=O)=O | C29H36N3O4P
